US04594342
A mixture of 10.37 g of (-)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one and 125 ml of benzene is refluxed. A solution of 9 g of benzyloxycarbonyl chloride in 25 ml of benzene is added dropwise to the mixture for 30 minutes, and the mixture is refluxed for 4 hours. Then, the mixture is evaporated under reduced pressure to remove solvent. 11.8 g of (-)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as an oil.

reactant | (-)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 10.37 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)CC1=CC=CC=C1)C=CC(=C2)C | C29H32N2O4S
reactant | benzyloxycarbonyl chloride | 9 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | (-)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 11.8 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)C | C30H32N2O6S
